US08975417B2
Step 24.1: 3-chloro-5-iodo-1-methylpyridin-2(1H)-one
The title compound was prepared in analogy to the procedure described in Step 23.2 using 3-chloro-5-iodo-pyridin-2-ol. tR: 3.30 min (HPLC 1); tR: 0.71 min (LC-MS 2); ESI-MS: 270 [M+H]+ (LC-MS 2); Rf=0.79 (CH2Cl2/MeOH 9:1).

reactant | 3-chloro-5-iodo-pyridin-2-ol | ClC=1C(=NC=C(C1)I)O | C5H3ClINO
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 3-chloro-5-iodo-1-methylpyridin-2(1H)-one | ClC=1C(N(C=C(C1)I)C)=O | C6H5ClINO
